### PR TITLE
[Merged by Bors] - chore: replace `ring_inverse` by `ringInverse` in lemma names

### PR DESCRIPTION
**Pull request by YaelDillies**
... to follow the naming convention.

From Toric

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean [hunk 1]
```diff
@@ -90,6 +90,8 @@ theorem IsUnit.ringInverse {x : M₀} (h : IsUnit x) : IsUnit (inverse x) :=
   match h with
   | ⟨u, hu⟩ => hu ▸ ⟨u⁻¹, (inverse_unit u).symm⟩
 
+@[deprecated (since := "2025-04-22")] alias IsUnit.ring_inverse := IsUnit.ringInverse
```
Comment (grunweg) [inline Mathlib/Algebra/GroupWithZero/Units/Basic.lean:93]: This one looks superfluous. Am I missing something?

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 2]
```diff
@@ -1053,12 +1055,17 @@ theorem to_ring_inverse (e : M ≃L[R] M₂) (f : M →L[R] M₂) :
     rw [hF]
     simp
 
-theorem ring_inverse_eq_map_inverse : Ring.inverse = @inverse R M M _ _ _ _ _ _ _ := by
+@[deprecated (since := "2025-04-22")] alias to_ring_inverse := to_ringInverse
+
+theorem ringInverse_eq_map_inverse : Ring.inverse = @inverse R M M _ _ _ _ _ _ _ := by
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:1060]: Pre-existing but: this should really use named arguments

File: Mathlib/Topology/Algebra/Module/Equiv.lean [hunk 3]
```diff
@@ -1028,15 +1028,17 @@ variable [AddCommGroup M] [Module R M]
...
     convert this
   simp
   rfl
 
+@[deprecated (since := "2025-04-22")] alias ring_inverse_equiv := ringInverse_equiv
+
 /-- The function `ContinuousLinearEquiv.inverse` can be written in terms of `Ring.inverse` for the
 ring of self-maps of the domain. -/
-theorem to_ring_inverse (e : M ≃L[R] M₂) (f : M →L[R] M₂) :
+theorem to_ringInverse (e : M ≃L[R] M₂) (f : M →L[R] M₂) :
```
Comment (grunweg) [inline Mathlib/Topology/Algebra/Module/Equiv.lean:1041]: When reading that name, I stumbled over the spelling... while `toRingInverse` is definitely wrong, the current name also feels strange. This is pre-existing, so no need to change.

**Review by grunweg — COMMENTED** [review]
Thanks!
maintainer merge

File: Mathlib/Algebra/GroupWithZero/Units/Basic.lean (hunk 1 above)
Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean:93]: Hmm, looks like a big in `scripts/add_deprecations.sh`

Comment (YaelDillies) [reply Mathlib/Algebra/GroupWithZero/Units/Basic.lean]: Ahah! Turns out we had both `IsUnit.ring_inverse` and `Ring.IsUnit.ringInverse` 🤦

File: Mathlib/Topology/Algebra/Module/Equiv.lean (hunk 3 above)
Comment (YaelDillies) [reply Mathlib/Topology/Algebra/Module/Equiv.lean:1041]: No, you're right, I had the same feeling. Fixed

**Comment by urkud** [comment]
Thanks! Once CI is happy, please merge this PR using `bors r+`
bors d+
